US08431563B2
A 250-mL round-bottomed flask was charged with 1,1,1-trifluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol dihydrochloride (2.66 g, 7.65 mmol), 5-bromothiophenesulfonyl chloride (2.00 g, 7.65 mmol, Sigma-Aldrich, St. Louis, Mo.), 25 mL of CH2Cl2, and triethylamine (3.73 mL, 26.8 mmol). After stirring at room temperature for 15 min, the mixture was diluted with CH2Cl2 (50 mL) and filtered. The filtrate was concentrated and purified by column chromatography on silica gel (0 to 50% EtOAc in hexanes) to give 2-(4-(4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol (2.10 g) as an off-white solid.

reactant | 1,1,1-trifluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol dihydrochloride | 7.65 mmol, 2.66 g | Cl.Cl.FC(C(C)(O)C1=CC=C(C=C1)N1CCNCC1)(F)F
reactant | 5-bromothiophenesulfonyl chloride | 7.65 mmol, 2.00 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 26.8 mmol, 3.73 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol | 2.10 g | BrC1=CC=C(S1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C17H18BrF3N2O3S2
